US05593988
A mixture of 4-(1-decenyl)nitrobenzene (12.2 g), acetic acid (120 ml) and palladium black (0.84 g) was hydrogenated at room temperature and at 3-4 atm for 12 hours. The catalyst was changed and the reaction was continued under the same conditions for 12 hours. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give 10.9 g of 4-decylaniline.

reactant | 4-(1-decenyl)nitrobenzene | 12.2 g | C(=CCCCCCCCC)C1=CC=C(C=C1)[N+](=O)[O-] | C16H23NO2
catalyst | palladium black | 0.84 g | [Pd] | Pd
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 4-decylaniline | 10.9 g | C(CCCCCCCCC)C1=CC=C(N)C=C1 | C16H27N
